US07485283B2
1b. {2R-[2α[2′R*, 5′R*(R*)],5β[1(S*), 2R*, 11R*]}-3-{2-hydroxy-11-methoxymethyloxy-11-[octahydro-5′-(1-(methoxymethyloxy)undecyl) [2.2′-bifuran]-5-yl]undecyl}-5-methyl-2-(5H)-furanone
A solution of {2R-[2α[2′R*, 5′R*(R*)],5β[1(S*), 2R*, 11R*]}-3-{2-[(1,1-dimethylethyl)diphenylsilyloxy]-11-methoxymethyloxy-11-[octahydro-5′-(1-(methoxymethyloxy)undec-3-ynyl) [2.2′-bifuran]-5-yl]-6-undecen-8-ynyl}-5-methyl-2-(5H)-furanone (64 mg, 70 mmole) in benzene (0.5 mL) is stirred at room temperature under a flow of nitrogen while tris(triphenylphosphine)rhodium chloride (14 mg, 15 mmole) is added. The mixture is charged with hydrogen gas and stirred at room temperature for two days. Water is added, and the layers are separated. The aqueous extracted with ethyl acetate (3×2 mL) and the combined organic fractions are washed (1×20 mL water) dried (saturated aqueous NaCl, sodium sulfate), filtered, and concentrated. Chromatography (hexane-2:1 hexane:ethyl acetate gradient over silica gel 230-400 mesh) affords the desired product.

reactant | 3-{2-[(1,1-dimethylethyl)diphenylsilyloxy]-11-methoxymethyloxy-11-[octahydro-5′-(1-(methoxymethyloxy)undec-3-ynyl) [2.2′-bifuran]-5-yl]-6-undecen-8-ynyl}-5-methyl-2-(5H)-furanone | 70 mmole, 64 mg | CC(C)(C)[Si](OC(CC=1C(OC(C1)C)=O)CCCC=CC#CCC(C1CCC(O1)C1OC(CC1)C(CC#CCCCCCCC)OCOC)OCOC)(C1=CC=CC=C1)C1=CC=CC=C1 | C55H78O9Si
reactant | hydrogen | [H][H] | H2
reactant | Water | O | H2O
solvent | benzene | 0.5 mL | C1=CC=CC=C1 | C6H6
catalyst | tris(triphenylphosphine)rhodium chloride | 15 mmole, 14 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 3-{2-hydroxy-11-methoxymethyloxy-11-[octahydro-5′-(1-(methoxymethyloxy)undecyl) [2.2′-bifuran]-5-yl]undecyl}-5-methyl-2-(5H)-furanone | OC(CC=1C(OC(C1)C)=O)CCCCCCCCC(C1CCC(O1)C1OC(CC1)C(CCCCCCCCCC)OCOC)OCOC | C39H70O9
